US03953402
3,5-di tert.butyl-4-hydroxyphenyl methacrylate was prepared by adding drop wise a solution of 5.8 grams of methacryloyl chloride in 25 milliliters of tetrahydrofuran to a solution of 11.1 gram of 2,6-di tert.butyl hydroquinone in 80 milliliters of tetrahydrofuran and 20.2 grams of triethylamine. The addition was completed in 15 minutes and the reaction mixture was stirred at room temperature for 5-1/2 hours. The reaction mixture was then poured into a mixture of 20 milliliters of concentrated hydrochloric acid and 400 milliliters of water, and the solid which precipitated was filtered off, dried, and recrystallized from hexane. There was obtained 10 grams of product which melted at 135° C. to 138° C.

reactant | methacryloyl chloride | 5.8 grams | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 2,6-di tert.butyl hydroquinone | 11.1 gram | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
reactant | hydrochloric acid | 20 milliliters | Cl | ClH
reactant | water | 400 milliliters | O | H2O
solvent | tetrahydrofuran | 25 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 milliliters | O1CCCC1 | C4H8O
solvent | triethylamine | 20.2 grams | C(C)N(CC)CC | C6H15N
product | 3,5-di tert.butyl-4-hydroxyphenyl methacrylate | C(C(=C)C)(=O)OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C18H26O3
